US07981903B2
2-(2-fluoroethyl)-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline (assumed 1.07 mmol from previous reaction) was dissolved in ethyl acetate (5 mL), treated with 10% palladium on carbon (50 mg, Aldrich), and then diluted with methanol (10 mL). The mixture was stirred under 60 psi of hydrogen pressure for 16 h in a Fischer-Porter apparatus. The pressure was released, the reaction vessel evacuated, and back-filled with nitrogen twice. The mixture was filtered through celite and the filtrate was concentrated to provide 2-(2-fluoroethyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-isoquinolinamine (239 mg, 100%). 1H NMR (400 MHz, CDCl3) δ ppm 2.80-2.93 (m, 6 H), 3.51 (bs, 2 H), 3.61 (s, 2 H), 3.80 (s, 3 H), 4.58-4.75 (dt, JHF=47.6, J=4.9 Hz, 2 H), 6.37 (s, 1 H), 6.50 (s, 1 H).

reactant | 2-(2-fluoroethyl)-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 1.07 mmol | FCCN1CC2=CC(=C(C=C2CC1)OC)[N+](=O)[O-] | C12H15FN2O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 2-(2-fluoroethyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-isoquinolinamine | 239 mg, 100% | FCCN1CC2=CC(=C(C=C2CC1)OC)N | C12H17FN2O
